### PR TITLE
feat(Data/Real/EReal): add mul_lt_mul_of_pos_left theorem

### PR DESCRIPTION
**Pull request by dobronx1325**
This PR adds the theorem `EReal.mul_lt_mul_of_pos_left`, which states that for a positive real number `a` and extended reals `b < c`, left multiplication by `a` preserves the strict order: `(a : EReal) * b < (a : EReal) * c`.  

The theorem complements existing order-preserving properties for addition in `EReal` and extends the algebraic structure for multiplication. The proof uses basic properties of extended reals and order relations.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/EReal/Operations.lean [hunk 1]
```diff
@@ -826,6 +826,29 @@ lemma nsmul_eq_mul (n : ℕ) (x : EReal) : n • x = n * x := by
...
+  ·apply sub_pos.mpr
+   apply hbc
+ apply h1
+·have h2 : 0 ≤ Real.toEReal a :=by
+  apply EReal.coe_nonneg.mpr
+  apply le_of_lt
+  apply ha_pos
+ apply h2
+·apply EReal.coe_ne_top
+
```
Comment (LLaurance) [inline Mathlib/Data/EReal/Operations.lean:851]:
```suggestion

theorem mul_lt_mul_of_pos_left {a : ℝ} {b c : EReal} (ha_pos : 0 < a) (hbc : b < c) :
    a.toEReal * b < a.toEReal * c := by
  rw [← sub_pos, sub_eq_add_neg, ← mul_neg,
    ← left_distrib_of_nonneg_of_ne_top (by finiteness) (top_ne_coe a).symm]
  exact EReal.mul_pos (EReal.coe_pos.mpr ha_pos) (sub_pos.mpr hbc)
```

**Review by LLaurance — COMMENTED** [review]
Your code can be enhanced by observing the conventions in the [library style guidelines](https://leanprover-community.github.io/contribute/style.html)

**Comment by dobronx1325** [comment]
ok
